US07713994B2
To a suspension of tert-butyl [4-(4-formyl-piperidin-1-yl)-phenyl]carbamate (0.30 g, 1.0 mmol) in methanol (5 mL) is added N,N-dimethylethylenediamine (0.18 g, 2.0 mmol). The reaction mixture is stirred for 10 minutes and then a mixture of zinc chloride (82 mg, 0.6 mmol) and sodium cyanoborohydride (75 mg, 1.2 mmol) in methanol (2 mL) is added in a dropwise fashion. After stirring for two hours at room temperature, the reaction mixture is diluted with water and extracted 3× with ethyl acetate. The combined extracts were washed once with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give tert-butyl {4-[4-({[2-(dimethylamino)ethyl]amino}methyl)piperidin-1-yl]phenyl}carbamate as a white foam (0.4 g, 100%).

reactant | tert-butyl [4-(4-formyl-piperidin-1-yl)-phenyl]carbamate | 1.0 mmol, 0.30 g | C(=O)C1CCN(CC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C17H24N2O3
reactant | N,N-dimethylethylenediamine | 2.0 mmol, 0.18 g | CN(CCN)C | C4H12N2
reactant | sodium cyanoborohydride | 1.2 mmol, 75 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | O | H2O
catalyst | zinc chloride | 0.6 mmol, 82 mg | [Cl-].[Zn+2].[Cl-]
product | tert-butyl {4-[4-({[2-(dimethylamino)ethyl]amino}methyl)piperidin-1-yl]phenyl}carbamate | 0.4 g, 100% | CN(CCNCC1CCN(CC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O)C | C21H36N4O2
